US05817693
(1RS,2SR,3SR)-3-[2-(2-Carboxyeth-1-yl)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-indane-2-carboxylic acid.
To a solution of (1RS,2SR,3 SR)-3-[2-[(E)-2-carboxy-ethen-1-yl]-4-methoxyphenyl]-1-(3,4-methylenedioxy-phenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid (43 mg, 0.08 mmol) in ethanol (5 mL) was added 10% palladium on activated carbon (40 mg). The resulting suspension was stirred overnight under an atmosphere of hydrogen then filtered through a pad of celite. The filtrate was concentrated under reduced pressure to afford the title compound (35 mg, 82%) as a white solid.

reactant | (1RS,2SR,3 SR)-3-[2-[(E)-2-carboxy-ethen-1-yl]-4-methoxyphenyl]-1-(3,4-methylenedioxy-phenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid | 0.08 mmol, 43 mg | C(=O)(O)/C=C/C1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C30H28O8
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 40 mg | [Pd] | Pd
product | (1RS,2SR,3SR)-3-[2-(2-Carboxyeth-1-yl)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-indane-2-carboxylic acid | 35 mg, 82% | C(=O)(O)CCC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C30H30O8
